US07910592B2
A roundbottom flask was charged with methyl (3-iodo-4-methoxyphenyl)acetate (503 mg, 1.64 mmol), bis(pinacolato)diboron (521 mg, 2.05 mmol), PdCl2(dppf)CH2Cl2 (134 mg, 0.164 mmol), KOAc (322 mg, 3.28 mmol), and DMSO (23 mL). The reaction was degassed with N2 and heated at 40° C. for 1 hour, 60° C. for 1 hour, and then 80° C. for 12 hours. The reaction was diluted with EtOAc (50 mL) and washed with water (3×25 mL) and brine (25 mL). The organic layer was dried (Na2SO4), filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0 to 80% EtOAc/hexanes) afforded methyl [4-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetate. 1H NMR (500 MHz, CDCl3): δ 7.55 (d, J=2.3 Hz, 1H), 7.32 (dd, J=8.5, 2.3 Hz, 1H), 6.82 (d, J=8.4 Hz, 1H), 3.82 (s, 3H), 3.67 (s, 3H), 3.56 (s, 2H), 1.35 (s, 12H).

reactant | methyl (3-iodo-4-methoxyphenyl)acetate | 1.64 mmol, 503 mg | IC=1C=C(C=CC1OC)CC(=O)OC | C10H11IO3
reactant | bis(pinacolato)diboron | 2.05 mmol, 521 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 3.28 mmol, 322 mg | CC(=O)[O-].[K+]
solvent | DMSO | 23 mL | CS(=O)C | C2H6OS
product | methyl [4-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetate | COC1=C(C=C(C=C1)CC(=O)OC)B1OC(C(O1)(C)C)(C)C | C16H23BO5
